US06589970B2
Oxalyl Chloride (3.86 mL, 44.2 mmol) was added under nitrogen at room temperature to a solution of 3-butyl-benzofuran-2-carboxylic acid (1.93 g, 8.84 mmol) in 60 mL of methylene chloride. After the addition a catalytic amount of DMF (10 μL) was added and the reaction was stirred at room temperature for 2 h. The solvent was removed under reduced pressure. To remove the excess oxalyl chloride the residue was dissolved in benzene and the solvent removed under reduced pressure to give 3-butyl-benzofuran-2-carbonyl chloride, which was immediately used in step 2 without additional purification.

reactant | Oxalyl Chloride | 44.2 mmol, 3.86 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-butyl-benzofuran-2-carboxylic acid | 8.84 mmol, 1.93 g | C(CCC)C1=C(OC2=C1C=CC=C2)C(=O)O | C13H14O3
reactant | DMF | 10 μL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 3-butyl-benzofuran-2-carbonyl chloride | C(CCC)C1=C(OC2=C1C=CC=C2)C(=O)Cl | C13H13ClO2
